US08012976B2
(E)-N,N-dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide
4-Aminoisobenzofuran-1(3H)-one (2.10 g, 14.1 mmol), 4-formyl-N,N-dimethylbenzamide (2.50 g, 14.1 mmol) and dry MgSO4 (9.84 g, 82 mmol) were added to acetonitrile (170 mL) and stirred under reflux overnight. The mixture was filtered, and the solvent was evaporated under reduced pressure and the residue was re-crystallized to obtain 3.5 g of title compound as a pale solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 3.01 (s, 3H), 3.15 (s, 3H), 5.43 (s, 2H), 7.38-7.40 (d, J=7.6 Hz, 1H), 7.55-7.61 (m, 3H), 7.80-7.82 (d, J=7.6 Hz, 1H), 7.96-7.98 (d, J=8 Hz, 2H), 8.58 (s, 1H); LC-MS (ESI) m/z: 308 (M+1)+.

reactant | 4-Aminoisobenzofuran-1(3H)-one | 14.1 mmol, 2.10 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | 4-formyl-N,N-dimethylbenzamide | 14.1 mmol, 2.50 g | C(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C10H11NO2
reactant | MgSO4 | 82 mmol, 9.84 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetonitrile | 170 mL | C(C)#N | C2H3N
product | (E)-N,N-dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide | 3.5 g | CN(C(C1=CC=C(C=C1)/C=N/C1=C2COC(C2=CC=C1)=O)=O)C | C18H16N2O3
